US08067408B2
N-[(3-Bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide (868 mg, 1.3 mmol), (3-formylphenyl)boronic acid (195 mg, 1.300 mmol), potassium carbonate (539 mg, 3.90 mmol), and Pd(Ph3P)4 (75 mg, 0.065 mmol) were divided into 3 portions and added to three 2-5 mL Biotage microwave vials in 1,4-dioxane (3 mL) and water (1 mL). The vials were capped and the mixtures were microwaved at normal power in the Emrys Optimizer at 100° C. for 15 min. The combined crude product was partitioned between EtOAc (75 mL) and water (20 mL). The phases were separated, and the organic phase was washed with water (2×20 mL), brine (20 mL), dried over anhydrous Na2SO4 filtered and evaporated to give the crude residue. The residue was taken up in DCM and absorbed on Isolute® Sorbent and purified by Combiflash using an 80 g silica column eluted with 0-10% DCM/MeOH. The product fractions were combined and concentrated to give (N-[(6-chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide (531.4 mg, 0.759 mmol, 58.4% yield) as a white solid. LC-MS m/z 693.4 (M+H)+, 1.01 min (ret time); mp 153-156° C.

reactant | N-[(3-Bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide | 1.3 mmol, 868 mg | BrC=1C=C(C=CC1Cl)CNC(=O)C1=CC(=CC(=C1)C)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C32H36BrClN6O3
reactant | (3-formylphenyl)boronic acid | 1.300 mmol, 195 mg | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | potassium carbonate | 3.90 mmol, 539 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(Ph3P)4 | 0.065 mmol, 75 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[(6-chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide | 0.759 mmol, 531.4 mg, 58.4% yield | ClC1=CC=C(C=C1C1=CC(=CC=C1)C=O)CNC(=O)C1=CC(=CC(=C1)C)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C39H41ClN6O4
